US06232290B1
To a solution of 4-(4-chlorophenyl)-4-hydroxypiperidine (5.0 g) in dichloromethane (50 ml) was added di-tert-butyl dicarbonate (5.7 g). After stirring for 5 hours at room temperature, the solvent was evaporated in vacuo and the residue was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (3:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 1-tert-butoxycarbonyl-4-(4-chlorophenyl)-4-hydroxypiperidine (7.58 g).

reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 5.0 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | di-tert-butyl dicarbonate | 5.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-tert-butoxycarbonyl-4-(4-chlorophenyl)-4-hydroxypiperidine | 7.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C16H22ClNO3
